US07652055B2
2-(4-Chloro-2-fluoro-benzylsulfanyl)-4,5-dihydro-1H-imidazole hydrobromide
A mixture of 4-chloro-2-fluorobenzylbromide (0.223 g, 1.0 mmol) and N,N′-ethylene thiourea (0.102 g, 1.0 mmol) in acetonitrile (4.5 ml) was heated for 10 min to 110° C. by microwave irradiation. After cooling down to room temperature a solid precipitated that was removed by filtration and washed with ether. It was obtained 260 mg (80%) of a white solid; MS (ISP): 245.0; 247.0 ([M+H]+.).

reactant | 4-chloro-2-fluorobenzylbromide | 1.0 mmol, 0.223 g | ClC1=CC(=C(CBr)C=C1)F | C7H5BrClF
reactant | N,N′-ethylene thiourea | 1.0 mmol, 0.102 g | C1CNC(=S)N1 | C3H6N2S
solvent | acetonitrile | 4.5 ml | C(C)#N | C2H3N
product | 2-(4-Chloro-2-fluoro-benzylsulfanyl)-4,5-dihydro-1H-imidazole hydrobromide | 260 mg, 80% | Br.ClC1=CC(=C(CSC=2NCCN2)C=C1)F | InChI=1S/C10H10ClFN2S.BrH/c11-8-2-1-7(9(12)5-8)6-15-10-13-3-4-14-10;/h1-2,5H,3-4,6H2,(H,13,14);1H
